US09302991B2
<Step-2>:(4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanamine hydrochloride
A mixture of 4-(2,2,2-trifluoroethoxy)picolinonitrile (0.71 g, 3.51 mmol, Step-1), hydrochloric acid (0.21 mL, 7.03 mmol) and palladium 10% on carbon (0.15 g) in methanol (35 mL) is vigorously stirred at room temperature under hydrogen atmosphere (0.3 MPa) for 4 hours. After filtration through a pad of celite, the filtrate is concentrated in vacuo. The residue is crystallized from ethyl acetate to give 0.43 g (44% yield) of the title compound as a white solid.

reactant | 4-(2,2,2-trifluoroethoxy)picolinonitrile | 3.51 mmol, 0.71 g | FC(COC1=CC(=NC=C1)C#N)(F)F | C8H5F3N2O
reactant | hydrochloric acid | 7.03 mmol, 0.21 mL | Cl | ClH
solvent | methanol | 35 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (4-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanamine hydrochloride | 0.43 g, 44% yield | Cl.FC(COC1=CC(=NC=C1)CN)(F)F | InChI=1S/C8H9F3N2O.ClH/c9-8(10,11)5-14-7-1-2-13-6(3-7)4-12;/h1-3H,4-5,12H2;1H
